US06458768B1
3-[1-Methyl-4[1-methyl-4[1-methyl-4[1-methyl-5(α-bromoacrylamido)indole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]propionitrile (23)
To a solution of 150 mg of 3-[1-methyl-4[1-methyl-4[1-methyl-4[1-methyl-5(α-bromoacrylamido) indole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]propionamidine hydrochloride, prepared as described in step I as above, in 10 ml DMF were added 25 mg of potassium carbonate and 20 mg of succinic anhydride. The mixture was heated at 60° C. for 4 hours. The solvent evaporated under vacuum and the crude residue purified by flash chromatography (methylene chloride/methanol:8/2) to yield 100 mg of the title compound as a yellow powder.

reactant | 3-[1-methyl-4[1-methyl-4[1-methyl-4[1-methyl-5(α-bromoacrylamido) indole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]propionamidine hydrochloride | 150 mg | Cl.CN1C(=CC(=C1)NC(=O)C=1N(C=C(C1)NC(=O)C=1N(C=C(C1)NC(=O)C=1N(C2=CC=C(C=C2C1)NC(C(=C)Br)=O)C)C)C)C(=O)NCCC(=N)N
reactant | potassium carbonate | 25 mg | C([O-])([O-])=O.[K+].[K+]
reactant | succinic anhydride | 20 mg | C1(CCC(=O)O1)=O | C4H4O3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-[1-Methyl-4[1-methyl-4[1-methyl-4[1-methyl-5(α-bromoacrylamido)indole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]pyrrole-2-carboxamido]propionitrile | 100 mg | CN1C(=CC(=C1)NC(=O)C=1N(C=C(C1)NC(=O)C=1N(C=C(C1)NC(=O)C=1N(C2=CC=C(C=C2C1)NC(C(=C)Br)=O)C)C)C)C(=O)NCCC#N | C34H33BrN10O5
